US07968720B2
(rac.)-(1R*,5S*)-7-{6-[3-(2-Chloro-3,6-difluoro-phenyl)-isoxazol-5-ylmethoxy]-pyridin-3-yl}-9-methyl-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic Acid 3-tert-butyl Ester 6-ethyl Ester (C11)
(rac.)-(1R*,5S*)-9-Methyl-7-trifluoromethanesulfonyloxy-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic acid 3-tert-butyl ester 6-ethyl ester (WO 2003/093267; 1.00 g, 2.18 mmol) and 2-[3-(2-chloro-3,6-difluoro-phenyl)-isoxazol-5-ylmethoxy]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine (1.41 g, 3.27 mmol) were dissolved in DME (14.5 mL), and aq. 2M Na2CO3 (11.0 mL) was added. The mixture was degassed with N2 (5 min). Pd(PPh3)4 (126 mg, 0.109 mmol) was added, and the mixture was rapidly heated to 80° C. The mixture was stirred at this temperature for 1 h, and was allowed to cool to rt. The mixture was diluted with EtOAc (100 mL), and was washed with water (100 mL). The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC(CH2Cl2/MeOH 95:5) yielded the title compound (1.12 g, 81%). LC-MS: tR=0.91 min; ES+: 631.34.

reactant | (rac.)-(1R*,5S*)-9-Methyl-7-trifluoromethanesulfonyloxy-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic acid 3-tert-butyl ester 6-ethyl ester | 2.18 mmol, 1.00 g | C(C)OC(=O)C=1[C@H]2CN(C[C@@H](CC1OS(=O)(=O)C(F)(F)F)N2C)C(=O)OC(C)(C)C | C17H25F3N2O7S
reactant | 2-[3-(2-chloro-3,6-difluoro-phenyl)-isoxazol-5-ylmethoxy]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | 3.27 mmol, 1.41 g | ClC1=C(C(=CC=C1F)F)C1=NOC(=C1)COC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C21H20BClF2N2O4
reactant | Na2CO3 | 2M, 11.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 14.5 mL | COCCOC | C4H10O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.109 mmol, 126 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (rac.)-(1R*,5S*)-7-{6-[3-(2-Chloro-3,6-difluoro-phenyl)-isoxazol-5-ylmethoxy]-pyridin-3-yl}-9-methyl-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic Acid 3-tert-butyl Ester 6-ethyl Ester | 1.12 g, 81% | C(C)OC(=O)C=1[C@H]2CN(C[C@@H](CC1C=1C=NC(=CC1)OCC1=CC(=NO1)C1=C(C(=CC=C1F)F)Cl)N2C)C(=O)OC(C)(C)C | C31H33ClF2N4O6
